US08383644B2
(S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester (48 mg) was treated with 2-acetylamino-thiazole-5-sulfonyl chloride according to General Procedure E to give (S)-2-({(S)-7-(2-Acetylamino-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester.

reactant | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester | 48 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H35Cl2N3O6
reactant | 2-acetylamino-thiazole-5-sulfonyl chloride | C(C)(=O)NC=1SC(=CN1)S(=O)(=O)Cl | C5H5ClN2O3S2
product | (S)-2-({(S)-7-(2-Acetylamino-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=CN=C(S3)NC(C)=O)=O | C47H39Cl2N5O9S2
